US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-hydroxy-N,N-dimethylacetamide to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid dimethylcarbamoylmethyl ester, hydrochloride. MS (ES+) m/z calcd. for C35H37Cl2F2N4O5: [(M+H)+]: 703. found: 703.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-hydroxy-N,N-dimethylacetamide | OCC(=O)N(C)C | C4H9NO2
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid dimethylcarbamoylmethyl ester, hydrochloride | Cl.CN(C(=O)COC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)C | InChI=1S/C35H36Cl2F2N4O5.ClH/c1-34(2,3)16-27-35(18-40,22-12-11-20(36)15-24(22)38)29(21-8-7-9-23(37)30(21)39)31(42-27)32(45)41-25-13-10-19(14-26(25)47-6)33(46)48-17-28(44)43(4)5;/h7-15,27,29,31,42H,16-17H2,1-6H3,(H,41,45);1H/t27-,29-,31+,35-;/m0./s1
